US08034812B2
Production of N-{3-[(2-acetamidoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.362 mmol), acetyl chloride (31 μL, 0.435 mmol) and pyridine (3 mL) as starting materials and in the same manner as in Example 384, the title compound (99 mg, 60%) was obtained as a pale-yellow powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.362 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | acetyl chloride | 0.435 mmol, 31 μL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | N-{3-[(2-acetamidoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 99 mg, 60% | C(C)(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C22H16F3N5O3
